US07291631B2
To a solution of {4-[(3,5-dimethyl-pyridin-2-ylmethyl)-(3-hydroxy-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester (0.190 g, 0.46 mmol) in CH2Cl2 (4 mL) was added dimethylsulfamoylchloride (0.160 mL, 1.49 mmol), NEt3 (0.300 g, 2.16 mmol) and DMAP (catalytic) and the reaction mixture stirred for 48 h. The mixture was diluted with CH2Cl2 (30 mL) and the organic layer was washed with saturated aqueous NaHCO3 (2×30 mL), dried (MgSO4), and concentrated. Purification by column chromatography on silica gel with saturated NH4OH in Et2O afforded {4-[(3,5-dimethyl-pyridin-2-ylmethyl)-(3-dimethylsulfamoyloxy-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester (0.054 g, 23%) 1H NMR (CDCl3) δ 1.30-1.53 (m, 13H), 2.11 (s, 3H), 2.25 (s, 3H), 2.50-2.54 (m, 2H), 2.94-3.00 (m, 8H), 3.74 (s, 2H), 3.91 (s, 2H), 5.11 (br s, 1H), 7.16 (s, 1H), 7.23 (dd, 1H, J=6.6, 4.8 Hz), 7.72 (d, 1H, J=8.3 Hz), 8.13 (s, 1H), 8.51 (d, 1H, J=4.1 Hz).

reactant | {4-[(3,5-dimethyl-pyridin-2-ylmethyl)-(3-hydroxy-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester | 0.46 mmol, 0.190 g | C(C)(C)(C)OC(NCCCCN(CC1=NC=CC=C1O)CC1=NC=C(C=C1C)C)=O | C23H34N4O3
reactant | dimethylsulfamoylchloride | 1.49 mmol, 0.160 mL | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | NEt3 | 2.16 mmol, 0.300 g | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | {4-[(3,5-dimethyl-pyridin-2-ylmethyl)-(3-dimethylsulfamoyloxy-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester | 0.054 g, 23% | C(C)(C)(C)OC(NCCCCN(CC1=NC=CC=C1OS(N(C)C)(=O)=O)CC1=NC=C(C=C1C)C)=O | C25H39N5O5S
